US06326369B1
N-[8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl]amine
The mixture of N-[8-(4,5,6,7-tetramethoxyindan-2-yl)octyl]phthalimide (384 mg), hydrazine monohydrate (194 mg) in ethanol (8 ml) was heated under reflux for 6 hr. The reaction mixture was cooled to room temperature and solid was filtered off and the filtrate was concentrated. The residue was diluted with ethyl acetate, washed with 1M aqueous potassium carbonate, water, and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo to yield the entitled compound (260 mg) as an oil.

reactant | N-[8-(4,5,6,7-tetramethoxyindan-2-yl)octyl]phthalimide | 384 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C29H37NO6
reactant | hydrazine monohydrate | 194 mg | O.NN
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | N-[8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl]amine | 260 mg | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCN | C21H35NO4
